US04642313
20 g of ethyl 3-(4-fluorobenzoylamino)-3-(2-furylcarbonyl)propionate, 100 ml of chloroform and 36.8 g of phosphorus oxychloride are treated in the same manner as described in Example 1. 15 g of ethyl 2-[2-(4-fluorophenyl)-5-(2-furyl)-4-oxazolyl]acetate are thereby obtained. Yield: 78.9%

reactant | ethyl 3-(4-fluorobenzoylamino)-3-(2-furylcarbonyl)propionate | 20 g | FC1=CC=C(C(=O)NC(CC(=O)OCC)C(=O)C=2OC=CC2)C=C1 | C17H16FNO5
reactant | phosphorus oxychloride | 36.8 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-[2-(4-fluorophenyl)-5-(2-furyl)-4-oxazolyl]acetate | 15 g, Yield: 78.9% | FC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)OCC)C=1OC=CC1 | C17H14FNO4
